US09353108B2
A) 3-Cyclopropyl-4-(cyclopropylmethoxy)-5-ethoxybenzaldehyde
(Bromomethyl)cyclopropane (0.781 mL) was added to a DMF (10 mL) suspension of 3-cyclopropyl-5-ethoxy-4-hydroxybenzaldehyde (830 mg) and potassium carbonate (1.11 g), and the mixture was stirred at 70° C. for 5 hours. The reaction mixture was allowed to cool to room temperature, and then, water was added thereto, followed by extraction with ethyl acetate. The obtained organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (1.03 g).

reactant | (Bromomethyl)cyclopropane | 0.781 mL | BrCC1CC1 | C4H7Br
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | 3-cyclopropyl-5-ethoxy-4-hydroxybenzaldehyde | 830 mg | C1(CC1)C=1C=C(C=O)C=C(C1O)OCC | C12H14O3
reactant | potassium carbonate | 1.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 3-Cyclopropyl-4-(cyclopropylmethoxy)-5-ethoxybenzaldehyde | 1.03 g | C1(CC1)C=1C=C(C=O)C=C(C1OCC1CC1)OCC | C16H20O3
